US04532248
Cyclopentyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(3-nitrophenyl)-pyridine-5-carboxylate
15.1 g (0.1 mol) of 3-nitrobenzaldehyde, together with 16.9 g (0.1 mol) of cyclopentyl β-aminocrotonate and 10.3 g (0.1 mol) of nitroacetone in 150 ml of ethanol, were heated under reflux for 6 hours. After the reaction mixture had cooled, the solvent was distilled off in vacuo, and the oily residue was taken up in a small amount of chloroform and was chromatographed on a silica gel column, using chloroform with the addition of methanol. The fractions containing the reaction product were concentrated, the residue was taken up in a small amount of isopropanol, and the nitrodihydropyridine crystallized in yellow crystals of melting point 174° C.

reactant | 3-nitrobenzaldehyde | 0.1 mol, 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | cyclopentyl β-aminocrotonate | 0.1 mol, 16.9 g | N\C(=C/C(=O)OC1CCCC1)\C | C9H15NO2
reactant | nitroacetone | 0.1 mol, 10.3 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Cyclopentyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(3-nitrophenyl)-pyridine-5-carboxylate | CC=1NC(=C(C(C1[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC1CCCC1)C | C19H21N3O6
